US03965112
2-Imidazolinyl Phenyl ketone.
A suspension of 2-imidazolinyl-phenylmethanol (5.0 g.) in dichloromethane (250 ml.) was stirred at room temperature with deactivated precipitated manganese dioxide (50 g.) for 60 hrs. The product was isolated as in Example 1 and the residue crystallised from benzene/petroleum to yield the title compound as colourless prisms (3.15 g.), m.p. 141°-143°C. [Found C, 68.9; H, 5.8; N, 16.1%--C10H10N2O-- requires C, 68.9; H, 5,8; N, 16.05%].

reactant | 2-imidazolinyl-phenylmethanol | 5.0 g | N1(C=NCC1)C(O)C1=CC=CC=C1 | C10H12N2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2-Imidazolinyl Phenyl ketone | 3.15 g | C1(=CC=CC=C1)C(=O)N1C=NCC1 | C10H10N2O
